US04866089
Preparation of 5-methoxy-7-sec. butoxy-2,2-dimethyl-4-chromanone
In 100 ml of acetonitrile 5.6 g (20 millimoles) of the sodium salt of 5-hydroxy-7-sec. butoxy-2,2-dimethyl-4-chromanone are dissolved and stirred in the presence of 0.5 g (2 millimoles) of 18-Crown-6 for 30 minutes. Thereafter 4.25 g (1.9 ml, 30 millimoles) of methyl iodide are added and the reaction mixture is stirred for a further 3 hours. The inorganic salt is filtered off, the solvent removed and the residue suspended in carbon tetrachloride, extracted twice with 30 ml of water each, the organic phase is dried over sodium sulfate and evaporated. Thus 5.1 g of the desired compound are obtained in the form of a light yellow oil, yield 92%.

reactant | acetonitrile | 20 millimoles, 100 ml, 5.6 g | C(C)#N | C2H3N
reactant | 18-Crown-6 | 2 millimoles, 0.5 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | methyl iodide | 30 millimoles, 1.9 ml, 4.25 g | CI | CH3I
reactant | 5-hydroxy-7-sec. butoxy-2,2-dimethyl-4-chromanone | OC1=C2C(CC(OC2=CC(=C1)OC(C)CC)(C)C)=O | C15H20O4
solvent | sodium | [Na] | Na
product | 5-methoxy-7-sec. butoxy-2,2-dimethyl-4-chromanone | 5.1 g, yield 92% | COC1=C2C(CC(OC2=CC(=C1)OC(C)CC)(C)C)=O | C16H22O4
